US08138181B2
Step 2C: Preparation of 8-(benzyloxy)-2-(7-(2-methoxyethoxy)-imidazo[1,2-a]pyridin-3-yl)quinoline:
8-(Benzyloxy)-2-chloroquinoline (5.0 g, 18.5 mmol), 7-(2-methoxyethoxy)-imidazo[1,2-a]pyridine (3.56 g, 18.5 mmol), Pd(PPh3)4 (1.07 g, 0.927 mmol), K2CO3 (5.12 g, 37.1 mmol), and Pd(OAc)2 (0.208 g, 0.927 mmol) were added into dioxane (74.1 ml, 18.5 mmol) and water (0.735 ml, 40.8 mmol) and heated to 100° C. overnight under nitrogen. The reaction was diluted with DCM and carbon (5 g) was added, followed by filtration. The filtrate was concentrated and then triturated with 1:1 EtOAc/MTBE (30 mL). The resulting solids were allowed to stir for 5 hours and then filtered to isolate of the desired product as a solid (5.4 g, 69% yield).

reactant | 8-(Benzyloxy)-2-chloroquinoline | 18.5 mmol, 5.0 g | C(C1=CC=CC=C1)OC=1C=CC=C2C=CC(=NC12)Cl | C16H12ClNO
reactant | 7-(2-methoxyethoxy)-imidazo[1,2-a]pyridine | 18.5 mmol, 3.56 g | COCCOC1=CC=2N(C=C1)C=CN2 | C10H12N2O2
reactant | K2CO3 | 37.1 mmol, 5.12 g | C(=O)([O-])[O-].[K+].[K+]
reactant | dioxane | 18.5 mmol, 74.1 ml | O1CCOCC1 | C4H8O2
reactant | water | 40.8 mmol, 0.735 ml | O | H2O
solvent | DCM | C(Cl)Cl | CH2Cl2
catalyst | Pd(PPh3)4 | 0.927 mmol, 1.07 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | Pd(OAc)2 | 0.927 mmol, 0.208 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 8-(benzyloxy)-2-(7-(2-methoxyethoxy)-imidazo[1,2-a]pyridin-3-yl)quinoline | 5.4 g, 69% yield | C(C1=CC=CC=C1)OC=1C=CC=C2C=CC(=NC12)C1=CN=C2N1C=CC(=C2)OCCOC | C26H23N3O3
